US06541505B1
4-(2-Methoxycarbonyl-phenyl)-Benzaldehyde.
Using essentially the same procedure used in reference example 97b except using methyl 2-iodo-benzoate as substrate in place of methyl 3-bromo-benzoate. MS (EI) m/z 240 (M)+.

reactant | methyl 2-iodo-benzoate | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
reactant | methyl 3-bromo-benzoate | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
product | 4-(2-Methoxycarbonyl-phenyl)-Benzaldehyde | COC(=O)C1=C(C=CC=C1)C1=CC=C(C=O)C=C1 | C15H12O3
